US08183380B2
Step A: 9-Isopropyl-3-oxa-9-aza-bicyclo[3.3.1]nonan-7-one oxime:
A mixture of 9-isopropyl-3-oxa-9-aza-bicyclo[3.3.1]nonan-7-one (CAS no: 99189-30-7)(1.25 g, 6.82 mmol) in ethanol (40 mL) and pyridine (0.8 mL, 10.2 mmol) with hydroxylamine hydrochloride (0.5 g, 7.23 mmol) was refluxed for 6 h. Cooled to 23° C., evaporated all volatiles, partitioned the residue between dichloromethane and sodium carbonate solution, reextracted the aqueous layer with tetrahydrofuran/ethyl acetate, all combined organic layers were dried over Na2SO4, filtered and the solvents evaporated to give the title compound as a dark brown solid. (1.0 g, 74%); MS: m/e=199.1 (M+H+).

reactant | 9-isopropyl-3-oxa-9-aza-bicyclo[3.3.1]nonan-7-one | C(C)(C)N1C2COCC1CC(C2)=O | C10H17NO2
reactant | pyridine | 10.2 mmol, 0.8 mL | N1=CC=CC=C1 | C5H5N
reactant | hydroxylamine hydrochloride | 7.23 mmol, 0.5 g | Cl.NO
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 9-Isopropyl-3-oxa-9-aza-bicyclo[3.3.1]nonan-7-one oxime | C(C)(C)N1C2COCC1CC(C2)=NO | C10H18N2O2
